US07501507B2
2-Formyl-5,5-dimethyl-1,3-dioxane (1).
A mixture of glyoxal (10.0 g of 40 wt. % aqueous solution, 0.070 mol), 2,2-dimethyl-1,3-propanediol (7.28 g, 0.070 mol) and p-toluenesulfonic acid (0.260 g, 1.36 mmol) in benzene (140 mL) was refluxed for 4 h in a flask fitted with a Soxhlet extractor containing Na2SO4. Then the reaction mixture was treated with solid NaHCO3 (0.250 g, 2.90 mmol) and filtered. The filtrate was concentrated and vacuum distilled (Kugelrohr) to afford a colorless liquid (413 mg, 4%). The 1H NMR spectrum was consistent with the data reported in a patent.19 This reactive compound was used immediately in the next reaction.

reactant | glyoxal | 0.070 mol, 10.0 g | C(=O)C=O | C2H2O2
reactant | 2,2-dimethyl-1,3-propanediol | 0.070 mol, 7.28 g | CC(CO)(CO)C | C5H12O2
reactant | p-toluenesulfonic acid | 1.36 mmol, 0.260 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 2.90 mmol, 0.250 g | C(=O)(O)[O-].[Na+]
solvent | benzene | 140 mL | C1=CC=CC=C1 | C6H6
product | 2-Formyl-5,5-dimethyl-1,3-dioxane | 413 mg, 4% | C(=O)C1OCC(CO1)(C)C | C7H12O3
